US09431145B2
(iii) 2-(4′-(bis(4-chlorophenyl)amino)-[1,1′-biphenyl]-4-yl)-2-methylpropanenitrile
A 2 L flat bottomed flask fitted with an argon inlet and condenser was charged with (4-(bis(4-chlorophenyl)amino)phenyl)boronic acid (39.3 g), 2-(4-iodophenyl)-2-methylpropanenitrile, compound from Example 5 (c) (27.1 g) and tetrahydrofuran (591 mL). Sodium carbonate (33.9 g) was dissolved in water (393 mL) and this was added to the tetrahydrofuran mixture. The reaction mixture was then heated to 75° C. for 16 hours. Ethyl acetate (200 mL) and water (200 mL) were added and the mixture filtered through a celite pad. The layers were split, the organic layers washed with brine (600 mL), dried over MgSO4 and concentrated. The resulting material was purified by flash column chromatography eluting with ethyl acetate/heptane mixtures. The fractions were concentrated to a thick slurry and the solid filtered off, washed with heptane and dried under vacuum to give an off-white solid. Yield: 27 g. 1H NMR (400 MHz, CDCl3): δ 7.56-7.42 (6H, m, Ar—H), 7.21 (4H, m, Ar—H), 7.15-7.02 (6H, m, Ar—H), 1.77 (6H, s, CH3).

reactant | (4-(bis(4-chlorophenyl)amino)phenyl)boronic acid | 39.3 g | ClC1=CC=C(C=C1)N(C1=CC=C(C=C1)B(O)O)C1=CC=C(C=C1)Cl | C18H14BCl2NO2
reactant | 2-(4-iodophenyl)-2-methylpropanenitrile | IC1=CC=C(C=C1)C(C#N)(C)C | C10H10IN
reactant | tetrahydrofuran | 591 mL | O1CCCC1 | C4H8O
reactant | Sodium carbonate | 33.9 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 393 mL | O | H2O
solvent | water | 200 mL | O | H2O
solvent | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4′-(bis(4-chlorophenyl)amino)-[1,1′-biphenyl]-4-yl)-2-methylpropanenitrile | ClC1=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)C(C#N)(C)C)C1=CC=C(C=C1)Cl | C28H22Cl2N2
